US05536718
6-[(2-Methylbenzeneacetyl)amino]pyridine-3-carbonyl chloride
A mixture of 4.5 g of 6-[(2-methylbenzeneacetyl)amino]pyridine-3-carboxylic acid and 25 ml of thionyl chloride is refluxed for 1 hour and then concentrated to dryness under vacuum. To the residue is added 20 ml of toluene and the solvent removed under vacuum. The addition and removal of toluene is repeated and the residual solid dried at room temperature under vacuum to give 5.3 g of dark brown solid.

reactant | 6-[(2-methylbenzeneacetyl)amino]pyridine-3-carboxylic acid | 4.5 g | CC1=C(C=CC=C1)CC(=O)NC1=CC=C(C=N1)C(=O)O | C15H14N2O3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
product | 6-[(2-Methylbenzeneacetyl)amino]pyridine-3-carbonyl chloride | 5.3 g | CC1=C(C=CC=C1)CC(=O)NC1=CC=C(C=N1)C(=O)Cl | C15H13ClN2O2
